US08304434B2
Step 8: 1-[5-fluoro-2-(methylsulfonyl)benzoyl]-3-(1-methyl-1-{[3-(trifluoromethyl)phenyl]sulfonyl}ethyl)azetidine
To a 10 ml vial was added 5-fluoro-2-(methylsulfonyl)benzoic acid (35.5 mg, 0.163 mmol), 3-(1-methyl-1-{[3-(trifluoromethyl)phenyl]sulfonyl}ethyl)azetidine (50 mg, 0.163 mmol), Bop reagent (79 mg, 0.179 mmol), diisopropylethyl amine (0.142 ml, 0.813 mmol) and 1 ml dimethylformamide. The resulting solution was stirred at room temperature for 1 hour. It was diluted with 1 m dimethyl sulfoxide, 0.5 ml water and 0.1 ml trifluoroacetic acid. This mixture was loaded on to reverse phase column directly eluted with water acetonitrile gradient solvent to give the title compound as a fluffy white solid after lyophilizing.

reactant | 5-fluoro-2-(methylsulfonyl)benzoic acid | 0.163 mmol, 35.5 mg | FC=1C=CC(=C(C(=O)O)C1)S(=O)(=O)C | C8H7FO4S
reactant | 3-(1-methyl-1-{[3-(trifluoromethyl)phenyl]sulfonyl}ethyl)azetidine | 0.163 mmol, 50 mg | CC(C)(S(=O)(=O)C1=CC(=CC=C1)C(F)(F)F)C1CNC1 | C13H16F3NO2S
reactant | Bop reagent | 0.179 mmol, 79 mg | CN(C)[P+](N(C)C)(N(C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethyl amine | 0.813 mmol, 0.142 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
solvent | water | 0.5 ml | O | H2O
solvent | trifluoroacetic acid | 0.1 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 1-[5-fluoro-2-(methylsulfonyl)benzoyl]-3-(1-methyl-1-{[3-(trifluoromethyl)phenyl]sulfonyl}ethyl)azetidine | FC=1C=CC(=C(C(=O)N2CC(C2)C(C)(S(=O)(=O)C2=CC(=CC=C2)C(F)(F)F)C)C1)S(=O)(=O)C | C21H21F4NO5S2
